US07737166B2
2-Amino-4-bromo-5-iodo-3-methoxy-6-methylbenzoic acid (I-4)
N-Iodosuccinimide (104 mg, 461 μmol) was put into an N,N-dimethylformamide (2.0 ml) solution of 2-amino-4-bromo-3-methoxy-6-methylbenzoic acid (I-3) (100 mg, 384 μmol), followed by stirring at room temperature for 40 minutes. The reaction liquid was put into water (30 ml), followed by controlling at pH of 4 with aqueous 2 N sodium hydroxide solution, then saturated brine (30 ml) was added, the product was extracted with ethyl acetate (50 ml×2). The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol=1:0→100:3) to obtain the entitled compound (84.9 mg, 57%) as a yellow white solid.

reactant | N-Iodosuccinimide | 461 μmol, 104 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
reactant | 2-amino-4-bromo-3-methoxy-6-methylbenzoic acid | 384 μmol, 100 mg | NC1=C(C(=O)O)C(=CC(=C1OC)Br)C | C9H10BrNO3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | brine | 30 ml | [Cl-].[Na+].O
solvent | water | 30 ml | O | H2O
product | 2-Amino-4-bromo-5-iodo-3-methoxy-6-methylbenzoic acid | 84.9 mg, 57% | NC1=C(C(=O)O)C(=C(C(=C1OC)Br)I)C | C9H9BrINO3
